* LVS netlist generated with ICnet by 'egrvlsi07' on Wed Apr 10 2019 at 13:19:35

*
* Globals.
*
.global ground VDD

*
* Component pathname : $VLSI/Project/or
*
.subckt or  Y A B

        M6 Y N$22 ground ground nmos l=0.13u w=0.6u m=1
        M5 Y N$22 VDD VDD pmos l=0.13u w=1.35u m=1
        M4 N$22 A ground ground nmos l=0.13u w=0.6u m=1
        M3 N$22 B ground ground nmos l=0.13u w=0.6u m=1
        M2 N$22 B N$13 VDD pmos l=0.13u w=2.7u m=1
        M1 N$13 A VDD VDD pmos l=0.13u w=2.7u m=1
.ends or

*
* Component pathname : $VLSI/Project/or3
*
.subckt or3  Y A B C

        X_OR2 Y N$5 C or
        X_OR1 N$5 A B or
.ends or3

