* File: or3.pex.netlist.pex
* Created: Mon Apr 15 16:18:18 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OR3_X0_6 10 20 33 35
r0 65 68 0.0517569
r1 60 63 0.0517569
r2 55 57 0.145
r3 49 69 0.485
r4 44 69 0.0490438
r5 44 46 0.418462
r6 42 49 0.0446983
r7 42 63 0.465
r8 41 57 0.0046983
r9 41 68 0.525
r10 39 52 0.0517569
r11 38 55 0.0046983
r12 38 39 0.485
r13 37 60 11.07
r14 37 46 1.94125
r15 36 65 15.61
r16 36 52 11.07
r17 35 37 0.460889
r18 33 36 2.12167
r19 29 31 16.5385
r20 24 26 10
r21 22 31 0.587288
r22 22 23 94.6154
r23 18 26 0.587288
r24 18 20 67.6923
r25 17 29 0.587288
r26 16 28 4.23445
r27 16 17 185.769
r28 15 28 4.23445
r29 14 24 0.587288
r30 14 15 316.923
r31 12 23 5.58729
r32 12 13 68.8462
r33 8 37 8.27089
r34 8 10 120
r35 7 37 8.27089
r36 6 13 5.58729
r37 6 7 122.308
r38 4 28 1.10046
r39 4 5 64.6154
r40 3 5 5.58729
r41 2 36 8.27089
r42 2 3 195.385
.ends

.subckt PM_OR3_X1_6 10 20 33 35
r0 65 68 0.0517569
r1 60 63 0.0517569
r2 55 57 0.145
r3 49 69 0.485
r4 44 69 0.0490438
r5 44 46 0.418462
r6 42 49 0.0446983
r7 42 63 0.465
r8 41 57 0.0046983
r9 41 68 0.525
r10 39 52 0.0517569
r11 38 55 0.0046983
r12 38 39 0.485
r13 37 60 11.07
r14 37 46 1.94125
r15 36 65 15.61
r16 36 52 11.07
r17 35 37 0.460889
r18 33 36 2.12167
r19 29 31 16.5385
r20 24 26 10
r21 22 31 0.587288
r22 22 23 94.6154
r23 18 26 0.587288
r24 18 20 67.6923
r25 17 29 0.587288
r26 16 28 4.23445
r27 16 17 185.769
r28 15 28 4.23445
r29 14 24 0.587288
r30 14 15 316.923
r31 12 23 5.58729
r32 12 13 68.8462
r33 8 37 8.27089
r34 8 10 120
r35 7 37 8.27089
r36 6 13 5.58729
r37 6 7 122.308
r38 4 28 1.10046
r39 4 5 64.6154
r40 3 5 5.58729
r41 2 36 8.27089
r42 2 3 195.385
.ends

.subckt PM_OR3_VDD 3 24 26 72
r0 74 77 0.00419427
r1 73 77 0.0648174
r2 69 76 0.00419427
r3 68 77 0.00419427
r4 68 72 0.0922667
r5 67 76 0.0648174
r6 39 73 0.21
r7 37 74 0.00586667
r8 37 41 0.354773
r9 33 41 1.94125
r10 31 39 0.0517569
r11 31 33 0.313846
r12 27 41 3.89501
r13 26 27 5.41017
r14 24 41 8.7013
r15 24 41 8.7013
r16 16 67 0.21
r17 14 72 0.106667
r18 14 69 0.00586667
r19 14 41 0.354773
r20 10 41 1.94125
r21 8 16 0.0517569
r22 8 10 0.313846
r23 4 41 3.89501
r24 3 4 5.41017
.ends

.subckt PM_OR3_GROUND 1 2 3 43 44 111
r0 113 117 0.0648174
r1 109 116 0.00419427
r2 109 111 0.0872
r3 108 117 0.00419427
r4 107 116 0.0648174
r5 105 116 0.00419427
r6 71 113 0.28
r7 69 72 0.0517569
r8 69 71 0.0517569
r9 60 62 0.155
r10 58 72 1.955
r11 56 62 0.0046983
r12 55 65 0.0517569
r13 55 56 0.3075
r14 53 58 0.0446983
r15 53 54 0.56
r16 52 54 0.0446983
r17 51 60 0.0046983
r18 51 52 1.5675
r19 49 108 0.0109333
r20 49 111 0.106667
r21 29 107 0.28
r22 27 30 0.0517569
r23 27 29 0.0517569
r24 18 20 0.155
r25 16 30 1.955
r26 14 20 0.0046983
r27 13 23 0.0517569
r28 13 14 0.3075
r29 11 16 0.0446983
r30 11 12 0.56
r31 10 12 0.0446983
r32 9 18 0.0046983
r33 9 10 1.5675
r34 7 105 0.0109333
r35 6 44 2.12167
r36 6 43 2.12167
r37 6 69 15.61
r38 6 65 15.61
r39 6 49 0.352955
r40 6 27 15.61
r41 6 23 15.61
r42 6 7 0.352955
r43 3 6 9.50649
r44 3 6 9.50649
r45 2 6 2.12167
r46 1 6 2.12167
.ends

.subckt PM_OR3_B 11 15 62
r0 62 65 0.68
r1 57 65 0.0477743
r2 57 58 0.63
r3 38 58 0.0477743
r4 33 35 0.0517569
r5 32 33 0.9075
r6 30 32 0.0446983
r7 30 31 0.3225
r8 29 31 0.0446983
r9 28 29 0.8975
r10 27 42 0.0573344
r11 26 28 0.0446983
r12 26 27 0.295
r13 25 42 0.662564
r14 25 42 11.07
r15 25 38 0.68
r16 25 35 11.07
r17 21 23 17.3077
r18 19 25 8.27089
r19 19 20 16.9231
r20 17 20 5.58729
r21 17 18 17.3077
r22 13 18 5.58729
r23 13 15 186.154
r24 9 11 57.6923
r25 8 25 8.27089
r26 7 23 0.587288
r27 7 8 33.8462
r28 5 9 5.58729
r29 5 6 33.4615
r30 4 21 0.587288
r31 3 6 5.58729
r32 3 4 368.462
.ends

.subckt PM_OR3_A 5 9 53
r0 53 56 0.68
r1 49 56 0.0477743
r2 48 49 0.75
r3 28 48 0.0477743
r4 23 40 0.0559551
r5 22 23 0.41
r6 20 22 0.0446983
r7 20 21 0.1875
r8 19 21 0.0446983
r9 18 19 0.7025
r10 17 25 0.0517569
r11 16 18 0.0446983
r12 16 17 0.0925
r13 15 40 0.68
r14 15 40 11.07
r15 15 31 8.27089
r16 15 28 0.68
r17 15 25 11.07
r18 13 15 8.27089
r19 13 14 149.231
r20 11 14 5.58729
r21 11 12 51.1538
r22 7 12 5.58729
r23 7 9 292.692
r24 5 31 346.538
.ends

.subckt PM_OR3_5 1 3 66 70
r0 114 115 1.162
r1 113 115 0.0446983
r2 112 113 0.566
r3 110 112 0.0446983
r4 110 111 0.646
r5 89 114 0.0477743
r6 84 101 0.0559551
r7 83 84 0.41
r8 81 83 0.0446983
r9 81 82 0.1875
r10 80 82 0.0446983
r11 79 80 0.7025
r12 78 86 0.0517569
r13 77 79 0.0446983
r14 77 78 0.0925
r15 76 101 0.68
r16 76 101 11.07
r17 76 92 8.27089
r18 76 89 0.68
r19 76 86 11.07
r20 74 76 8.27089
r21 74 75 149.231
r22 72 75 5.58729
r23 72 73 51.1538
r24 68 73 5.58729
r25 68 70 292.692
r26 66 92 346.538
r27 45 111 0.0477743
r28 45 46 0.68
r29 34 46 0.0223492
r30 33 34 0.252
r31 31 46 0.0223492
r32 31 32 0.544
r33 29 32 0.0446983
r34 29 30 0.146
r35 25 28 0.0517569
r36 22 42 0.0559551
r37 22 28 2.6875
r38 19 37 0.0559551
r39 19 20 0.6275
r40 14 23 0.0517569
r41 14 16 0.209231
r42 12 23 0.2375
r43 10 12 0.0446983
r44 10 11 0.0875
r45 8 20 0.0446983
r46 8 9 0.0975
r47 7 11 0.0446983
r48 6 9 0.0446983
r49 6 7 1.2625
r50 5 33 0.0477743
r51 5 42 0.68
r52 5 25 15.61
r53 4 47 0.108444
r54 4 30 0.0477743
r55 4 37 0.68
r56 4 16 3.8825
r57 3 47 0.921778
r58 1 5 1.89833
.ends

.subckt PM_OR3_Y 1 3 68
r0 68 71 0.68
r1 63 71 0.0477743
r2 63 64 0.42
r3 45 64 0.0477743
r4 45 46 0.68
r5 34 46 0.0223492
r6 33 34 0.252
r7 31 46 0.0223492
r8 31 32 0.544
r9 29 32 0.0446983
r10 29 30 0.146
r11 25 28 0.0517569
r12 22 42 0.0559551
r13 22 28 2.6875
r14 19 37 0.0559551
r15 19 20 0.6275
r16 14 23 0.0517569
r17 14 16 0.209231
r18 12 23 0.2375
r19 10 12 0.0446983
r20 10 11 0.0875
r21 8 20 0.0446983
r22 8 9 0.0975
r23 7 11 0.0446983
r24 6 9 0.0446983
r25 6 7 1.2625
r26 5 33 0.0477743
r27 5 42 0.68
r28 5 25 15.61
r29 4 47 0.108444
r30 4 30 0.0477743
r31 4 37 0.68
r32 4 16 3.8825
r33 3 47 0.921778
r34 1 5 1.89833
.ends

.subckt PM_OR3_C 11 15 62
r0 62 65 0.68
r1 57 65 0.0477743
r2 57 58 0.538
r3 38 58 0.0477743
r4 33 35 0.0517569
r5 32 33 0.9075
r6 30 32 0.0446983
r7 30 31 0.3225
r8 29 31 0.0446983
r9 28 29 0.8975
r10 27 42 0.0573344
r11 26 28 0.0446983
r12 26 27 0.295
r13 25 42 0.662564
r14 25 42 11.07
r15 25 38 0.68
r16 25 35 11.07
r17 21 23 17.3077
r18 19 25 8.27089
r19 19 20 16.9231
r20 17 20 5.58729
r21 17 18 17.3077
r22 13 18 5.58729
r23 13 15 186.154
r24 9 11 57.6923
r25 8 25 8.27089
r26 7 23 0.587288
r27 7 8 33.8462
r28 5 9 5.58729
r29 5 6 33.4615
r30 4 21 0.587288
r31 3 6 5.58729
r32 3 4 368.462
.ends

